US07728155B2
Treatment of (±)-3-(6-chloro-4-hydroxy-2,3-dihydro-1H-inden-5-yl)-2-hydroxypropyl 4-methylbenzenesulfonate (4.7 g, 0.012 mol) with triphenylphosphine (4.64 g, 0.018 mol) and diisopropylazodicarboxylate (3.57 g, 0.018 mol) generally according to the procedure described for Intermediate 5 gave 4.09 g (91%) of (±)-(4-chloro-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 95-97° C.; Anal. calcd. for C19H19ClO4S: C, 60.23; H, 5.05. Found: C, 60.12; H, 4.97.

reactant | (±)-3-(6-chloro-4-hydroxy-2,3-dihydro-1H-inden-5-yl)-2-hydroxypropyl 4-methylbenzenesulfonate | 0.012 mol, 4.7 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(CC=1C(=C2CCCC2=CC1Cl)O)O | C19H21ClO5S
reactant | triphenylphosphine | 0.018 mol, 4.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.018 mol, 3.57 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | (±)-(4-chloro-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl 4-methylbenzenesulfonate | 4.09 g, 91% | CC1=CC=C(C=C1)S(=O)(=O)OCC1CC2=C(O1)C=1CCCC1C=C2Cl | C19H19ClO4S
